US04783462
4-Bromo-5-[3-(2-n-butyl-4-cyanophenoxy)propylamino]-2-ethyl-3(2H)pyridazinone (Compound No. 181)
A mixture comprising 316 mg of 4-bromo-5-[3-(2-n-butyl-4-carbamoylphenoxy)propylamino]-2-ethyl-3(2H) pyridazinone (Compound No. 180), 174 mg of p-toluenesulfonyl chloride, 110 mg of pyridine and 5 ml of N,N-dimethylformamide, was stirred at 95° C. for 1.5 hours. The reaction mixture was subjected to distillation under reduced pressure. Water was poured into the residual oily substance, and the mixture was extracted with ethyl acetate. The extract was washed sequentially with 5% dilute hydrochloric acid, water and a saturated sodium hydrogen carbonate aqueous solution, and dried over sodium sulfate. Then, the solvent was distilled off to obtain a pale yellow oily substance. The oily substance was crystallized from ethyl ether to obtain 248 mg of the above identified compound as colorless crystals having a melting point of from 107.5° to 108.5° C.

reactant | 4-bromo-5-[3-(2-n-butyl-4-carbamoylphenoxy)propylamino]-2-ethyl-3(2H) pyridazinone | 316 mg | BrC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C(N)=O)CCCC)CC)=O | C20H27BrN4O3
reactant | p-toluenesulfonyl chloride | 174 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 110 mg | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-5-[3-(2-n-butyl-4-cyanophenoxy)propylamino]-2-ethyl-3(2H)pyridazinone | BrC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C#N)CCCC)CC)=O | C20H25BrN4O2
